US06943169B2
0.5 grams of 7-methoxy-1,4-benzoxazin-3-one (2.8 mmole) was dissolved in 10 ml of dimethylformamide and cooled in an ice bath. 0.17 grams (3.5 mmole) of sodium hydride (60% wt. inn oil) was added, and after 5 minutes 0.8 grams (2.9 mmole) of 3-bromo-5-chloro-benzylbromide was added all at once. The mixture was stirred at ice bath temperature for 1 hour, and then quenched by addition of 1% hydrochloric acid. The product was extracted with ethyl acetate, that was evaporated under reduced pressure to give an oil which was chromatographed via medium pressure eluting with 10% ethyl acetate in hexanes to yield 0.9 grams of 4-(3-bromo-5-chloro-benzyl)-7-methoxy-4H-benzo[1,4]oxazin-3-one as a white solid.

reactant | 7-methoxy-1,4-benzoxazin-3-one | 2.8 mmole, 0.5 grams | COC1=CC2=C(NC(CO2)=O)C=C1 | C9H9NO3
reactant | sodium hydride | 3.5 mmole, 0.17 grams | [H-].[Na+]
reactant | 3-bromo-5-chloro-benzylbromide | 2.9 mmole, 0.8 grams | BrC=1C=C(CBr)C=C(C1)Cl | C7H5Br2Cl
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(3-bromo-5-chloro-benzyl)-7-methoxy-4H-benzo[1,4]oxazin-3-one | 0.9 grams | BrC=1C=C(CN2C(COC3=C2C=CC(=C3)OC)=O)C=C(C1)Cl | C16H13BrClNO3
